US05354913
To a solution of (S)-1-phenyl-1,3-propanediol (8.0 g, 52.6 mmol) in dichloromethane (80 ml) were added at 0° C. acetic anhydride (5.5 ml) and pyridine (4.7 ml). The mixture was stirred for 6 hours at the same temperature range and for 1.5 hour at room temperature. The reaction mixture was washed with an aqueous solution of sodium hydrogencarbonate, water and a saturated aqueous saline solution, successively. The solvent was distilled off under reduced pressure. The residue was subjected to a silica gel column chromatography to give 4.8 g of (S)-3-hydroxy-3-phenylpropyl acetate. Physico-chemical properties and spectral data of these products are shown in [Table 7].

reactant | (S)-1-phenyl-1,3-propanediol | 52.6 mmol, 8.0 g | C1(=CC=CC=C1)[C@H](CCO)O | C9H12O2
reactant | acetic anhydride | 5.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 4.7 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (S)-3-hydroxy-3-phenylpropyl acetate | 4.8 g | C(C)(=O)OCC[C@@H](C1=CC=CC=C1)O | C11H14O3
